US07189738B2
tert-Butyl 4-[2-(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate
At 0° C., 0.97 g (5.35 mmol) of 5-chlorothiophene-2-carbonyl chloride is added dropwise to a suspension of 1.48 g (4.12 mmol) of tert-butyl 4-[2-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate, 1.7 ml (20.6 mmol) of pyridine and 25 mg (0.206 mmol) of 4-DMAP in 21 ml of absolute THF. The mixture is slowly warmed to room temperature and stirred overnight. The reaction 10 mixture is concentrated and then separated by chromatography on silica gel (dichloromethane/methanol 97:3).

reactant | 5-chlorothiophene-2-carbonyl chloride | 5.35 mmol, 0.97 g | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
reactant | tert-butyl 4-[2-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate | 4.12 mmol, 1.48 g | NC1=C2CN(C(C2=CC=C1)=O)CCC1CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O3
reactant | pyridine | 20.6 mmol, 1.7 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-DMAP | 0.206 mmol, 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 21 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-[2-(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate | ClC1=CC=C(S1)C(=O)NC1=C2CN(C(C2=CC=C1)=O)CCC1CCN(CC1)C(=O)OC(C)(C)C | C25H30ClN3O4S
